US05484942
0.58 g of (4aRS,7aRS)-4,4-diphenyl-6-vinyloxycarbonyl perhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide is treated with 25 cm3 of a 5.7N solution of hydrochloric acid in dry dioxane for 30 minutes while making lukewarm. The reaction solution is concentrated to dryness under reduced pressure (2.7 kPa) at 50° C. The residue is taken up in 15 cm3 of ethanol, the solution obtained is refluxed for 30 minutes and then concentrated to dryness. The solid obtained is washed with ethyl ether, drained and dried. 0.46 g of (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide hydrochloride is obtained in the form of a white solid.

reactant | (4aRS,7aRS)-4,4-diphenyl-6-vinyloxycarbonyl perhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide | 0.58 g | C1(=CC=CC=C1)C1(CCS(C2CN(CC21)C(=O)OC=C)(=O)=O)C2=CC=CC=C2 | C22H23NO4S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide hydrochloride | 0.46 g | Cl.C1(=CC=CC=C1)C1(CCS(C2CNCC21)(=O)=O)C2=CC=CC=C2 | InChI=1S/C19H21NO2S.ClH/c21-23(22)12-11-19(15-7-3-1-4-8-15,16-9-5-2-6-10-16)17-13-20-14-18(17)23;/h1-10,17-18,20H,11-14H2;1H
